US09351965B2
Preparation of 3-(2-Fluorobenzyl)-3-(methoxymethyl)piperidine
Hydrochloric acid in dioxane (1.5 mL, 4M) was added to a flask containing tert-butyl 3-(2-fluorobenzyl)-3-(methoxymethyl)piperidine-1-carboxylate (0.415 g, 1.23 mmol). 1,4-dioxane (1.5 mL) was added to the reaction mixture. The reaction was allowed to stir for 4 hours. Upon reaction completion, the reaction was concentrated, and 337 mg of crude product was recovered and progressed to the next step without further purification.

reactant | Hydrochloric acid | Cl | ClH
reactant | tert-butyl 3-(2-fluorobenzyl)-3-(methoxymethyl)piperidine-1-carboxylate | 1.23 mmol, 0.415 g | FC1=C(CC2(CN(CCC2)C(=O)OC(C)(C)C)COC)C=CC=C1 | C19H28FNO3
solvent | dioxane | 4M, 1.5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 3-(2-Fluorobenzyl)-3-(methoxymethyl)piperidine | FC1=C(CC2(CNCCC2)COC)C=CC=C1 | C14H20FNO
